*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.004
*-- die chiplet2:  metal layers: 2


.subckt chiplet2
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+ns_pad_port_0_4
+nd_pad_port_0_5
+ns_pad_port_0_6
+nd_pad_port_0_7
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+nd_pad_port_1_4
+ns_pad_port_1_5
+nd_pad_port_1_6
+ns_pad_port_1_7
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+ns_pad_port_2_4
+nd_pad_port_2_5
+ns_pad_port_2_6
+nd_pad_port_2_7
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
+nd_pad_port_3_4
+ns_pad_port_3_5
+nd_pad_port_3_6
+ns_pad_port_3_7
*-- p/g port #: 16/16
+nd_1_0_5000_6500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_1000 ns_1_0_2000_1000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_1000 ns_1_0_4000_1000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_1000 ns_1_0_6000_1000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_1000 ns_1_0_8000_1000 0.016324
rs_1_2_0_2_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_3_0 ns_1_0_0_3000 ns_1_0_2000_3000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_3000 ns_1_0_4000_3000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_3000 ns_1_0_6000_3000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_3000 ns_1_0_8000_3000 0.016324
rs_1_2_0_4_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_5_0 ns_1_0_0_5000 ns_1_0_2000_5000 0.016324
rs_1_2_0_5_1 ns_1_0_2000_5000 ns_1_0_4000_5000 0.016324
rs_1_2_0_5_2 ns_1_0_4000_5000 ns_1_0_6000_5000 0.016324
rs_1_2_0_5_3 ns_1_0_6000_5000 ns_1_0_8000_5000 0.016324
rs_1_2_0_6_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_6_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_6_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_6_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_7_0 ns_1_0_0_7000 ns_1_0_2000_7000 0.016324
rs_1_2_0_7_1 ns_1_0_2000_7000 ns_1_0_4000_7000 0.016324
rs_1_2_0_7_2 ns_1_0_4000_7000 ns_1_0_6000_7000 0.016324
rs_1_2_0_7_3 ns_1_0_6000_7000 ns_1_0_8000_7000 0.016324
rs_1_2_0_8_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_8_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_8_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_8_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
rs_1_2_0_9_0 ns_1_0_0_9000 ns_1_0_2000_9000 0.016324
rs_1_2_0_9_1 ns_1_0_2000_9000 ns_1_0_4000_9000 0.016324
rs_1_2_0_9_2 ns_1_0_4000_9000 ns_1_0_6000_9000 0.016324
rs_1_2_0_9_3 ns_1_0_6000_9000 ns_1_0_8000_9000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_1000 0.016324
rs_2_1_0_0_1 ns_2_0_0_1000 ns_2_0_0_2000 0.016324
rs_2_1_0_0_2 ns_2_0_0_2000 ns_2_0_0_3000 0.016324
rs_2_1_0_0_3 ns_2_0_0_3000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_4 ns_2_0_0_4000 ns_2_0_0_5000 0.016324
rs_2_1_0_0_5 ns_2_0_0_5000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_6 ns_2_0_0_6000 ns_2_0_0_7000 0.016324
rs_2_1_0_0_7 ns_2_0_0_7000 ns_2_0_0_8000 0.016324
rs_2_1_0_0_8 ns_2_0_0_8000 ns_2_0_0_9000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_1000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_1000 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_2000 ns_2_0_2000_3000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_3000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_4 ns_2_0_2000_4000 ns_2_0_2000_5000 0.016324
rs_2_1_0_1_5 ns_2_0_2000_5000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_6 ns_2_0_2000_6000 ns_2_0_2000_7000 0.016324
rs_2_1_0_1_7 ns_2_0_2000_7000 ns_2_0_2000_8000 0.016324
rs_2_1_0_1_8 ns_2_0_2000_8000 ns_2_0_2000_9000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_1000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_1000 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_2000 ns_2_0_4000_3000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_3000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_4 ns_2_0_4000_4000 ns_2_0_4000_5000 0.016324
rs_2_1_0_2_5 ns_2_0_4000_5000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_6 ns_2_0_4000_6000 ns_2_0_4000_7000 0.016324
rs_2_1_0_2_7 ns_2_0_4000_7000 ns_2_0_4000_8000 0.016324
rs_2_1_0_2_8 ns_2_0_4000_8000 ns_2_0_4000_9000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_1000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_1000 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_2000 ns_2_0_6000_3000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_3000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_4 ns_2_0_6000_4000 ns_2_0_6000_5000 0.016324
rs_2_1_0_3_5 ns_2_0_6000_5000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_6 ns_2_0_6000_6000 ns_2_0_6000_7000 0.016324
rs_2_1_0_3_7 ns_2_0_6000_7000 ns_2_0_6000_8000 0.016324
rs_2_1_0_3_8 ns_2_0_6000_8000 ns_2_0_6000_9000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_1000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_1000 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_2000 ns_2_0_8000_3000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_3000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_4 ns_2_0_8000_4000 ns_2_0_8000_5000 0.016324
rs_2_1_0_4_5 ns_2_0_8000_5000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_6 ns_2_0_8000_6000 ns_2_0_8000_7000 0.016324
rs_2_1_0_4_7 ns_2_0_8000_7000 ns_2_0_8000_8000 0.016324
rs_2_1_0_4_8 ns_2_0_8000_8000 ns_2_0_8000_9000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_1000 ns_2_0_0_1000 0.005
rvs_1_0_1_1 ns_1_0_2000_1000 ns_2_0_2000_1000 0.005
rvs_1_0_1_2 ns_1_0_4000_1000 ns_2_0_4000_1000 0.005
rvs_1_0_1_3 ns_1_0_6000_1000 ns_2_0_6000_1000 0.005
rvs_1_0_1_4 ns_1_0_8000_1000 ns_2_0_8000_1000 0.005
rvs_1_0_2_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_2_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_2_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_2_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_2_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_3_0 ns_1_0_0_3000 ns_2_0_0_3000 0.005
rvs_1_0_3_1 ns_1_0_2000_3000 ns_2_0_2000_3000 0.005
rvs_1_0_3_2 ns_1_0_4000_3000 ns_2_0_4000_3000 0.005
rvs_1_0_3_3 ns_1_0_6000_3000 ns_2_0_6000_3000 0.005
rvs_1_0_3_4 ns_1_0_8000_3000 ns_2_0_8000_3000 0.005
rvs_1_0_4_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_4_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_4_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_4_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_4_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_5_0 ns_1_0_0_5000 ns_2_0_0_5000 0.005
rvs_1_0_5_1 ns_1_0_2000_5000 ns_2_0_2000_5000 0.005
rvs_1_0_5_2 ns_1_0_4000_5000 ns_2_0_4000_5000 0.005
rvs_1_0_5_3 ns_1_0_6000_5000 ns_2_0_6000_5000 0.005
rvs_1_0_5_4 ns_1_0_8000_5000 ns_2_0_8000_5000 0.005
rvs_1_0_6_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_6_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_6_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_6_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_6_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_7_0 ns_1_0_0_7000 ns_2_0_0_7000 0.005
rvs_1_0_7_1 ns_1_0_2000_7000 ns_2_0_2000_7000 0.005
rvs_1_0_7_2 ns_1_0_4000_7000 ns_2_0_4000_7000 0.005
rvs_1_0_7_3 ns_1_0_6000_7000 ns_2_0_6000_7000 0.005
rvs_1_0_7_4 ns_1_0_8000_7000 ns_2_0_8000_7000 0.005
rvs_1_0_8_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_8_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_8_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_8_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_8_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
rvs_1_0_9_0 ns_1_0_0_9000 ns_2_0_0_9000 0.005
rvs_1_0_9_1 ns_1_0_2000_9000 ns_2_0_2000_9000 0.005
rvs_1_0_9_2 ns_1_0_4000_9000 ns_2_0_4000_9000 0.005
rvs_1_0_9_3 ns_1_0_6000_9000 ns_2_0_6000_9000 0.005
rvs_1_0_9_4 ns_1_0_8000_9000 ns_2_0_8000_9000 0.005
id_0_0_0_0 nd_1_0_1000_500 0 0.00624712
id_0_0_0_1 nd_1_0_3000_500 0 0.0114242
id_0_0_0_2 nd_1_0_5000_500 0 0.00220692
id_0_0_0_3 nd_1_0_7000_500 0 0.0052522
id_0_0_0_4 nd_1_0_9000_500 0 0.00321516
id_0_0_0_5 nd_1_0_1000_1500 0 0.00120885
id_0_0_0_6 nd_1_0_3000_1500 0 0.0136245
id_0_0_0_7 nd_1_0_5000_1500 0 0.00228546
id_0_0_0_8 nd_1_0_7000_1500 0 0.00738696
id_0_0_0_9 nd_1_0_9000_1500 0 0.00537672
id_0_0_0_10 nd_1_0_1000_2500 0 0.0033626
id_0_0_0_11 nd_1_0_3000_2500 0 0.00648152
id_0_0_0_12 nd_1_0_5000_2500 0 0.00444652
id_0_0_0_13 nd_1_0_7000_2500 0 0.00235683
id_0_0_0_14 nd_1_0_9000_2500 0 0.00030695
id_0_0_0_15 nd_1_0_1000_3500 0 0.0034493
id_0_0_0_16 nd_1_0_3000_3500 0 0.00140291
id_0_0_0_17 nd_1_0_5000_3500 0 0.013867
id_0_0_0_18 nd_1_0_7000_3500 0 0.0117958
id_0_0_0_19 nd_1_0_9000_3500 0 0.00767908
id_0_0_0_20 nd_1_0_1000_4500 0 0.0129056
id_0_0_0_21 nd_1_0_3000_4500 0 0.0108079
id_0_0_0_22 nd_1_0_5000_4500 0 0.00665499
id_0_0_0_23 nd_1_0_7000_4500 0 0.00469137
id_0_0_0_24 nd_1_0_9000_4500 0 0.0026945
id_0_0_0_25 nd_1_0_1000_5500 0 0.000618383
id_0_0_0_26 nd_1_0_3000_5500 0 0.00367543
id_0_0_0_27 nd_1_0_5000_5500 0 0.00895224
id_0_0_0_28 nd_1_0_7000_5500 0 0.00683063
id_0_0_0_29 nd_1_0_9000_5500 0 0.012033
id_0_0_0_30 nd_1_0_1000_6500 0 0.00797045
id_0_0_0_31 nd_1_0_3000_6500 0 0.00590151
id_0_0_0_32 nd_1_0_5000_6500 0 0.0111342
id_0_0_0_33 nd_1_0_7000_6500 0 0.00904638
id_0_0_0_34 nd_1_0_9000_6500 0 0.012222
id_0_0_0_35 nd_1_0_1000_7500 0 0.00289951
id_0_0_0_36 nd_1_0_3000_7500 0 0.00808857
id_0_0_0_37 nd_1_0_5000_7500 0 0.0040158
id_0_0_0_38 nd_1_0_7000_7500 0 0.00916247
id_0_0_0_39 nd_1_0_9000_7500 0 0.0071244
id_0_0_0_40 nd_1_0_1000_8500 0 0.00504668
id_0_0_0_41 nd_1_0_3000_8500 0 0.00822831
id_0_0_0_42 nd_1_0_5000_8500 0 0.0134228
id_0_0_0_43 nd_1_0_7000_8500 0 0.0113291
id_0_0_0_44 nd_1_0_9000_8500 0 0.00211224
id_0_0_0_45 nd_1_0_1000_9500 0 0.0123639
id_0_0_0_46 nd_1_0_3000_9500 0 0.00313101
id_0_0_0_47 nd_1_0_5000_9500 0 0.00107717
id_0_0_0_48 nd_1_0_7000_9500 0 0.006321
id_0_0_0_49 nd_1_0_9000_9500 0 0.00949503
is_0_0_0_0 0 ns_1_0_0_0 0.00264873
is_0_0_0_1 0 ns_1_0_2000_0 0.00816658
is_0_0_0_2 0 ns_1_0_4000_0 0.00380209
is_0_0_0_3 0 ns_1_0_6000_0 0.00162472
is_0_0_0_4 0 ns_1_0_8000_0 0.0070863
is_0_0_0_5 0 ns_1_0_0_1000 0.00491468
is_0_0_0_6 0 ns_1_0_2000_1000 0.000543143
is_0_0_0_7 0 ns_1_0_4000_1000 0.0139003
is_0_0_0_8 0 ns_1_0_6000_1000 0.0116309
is_0_0_0_9 0 ns_1_0_8000_1000 0.00167912
is_0_0_0_10 0 ns_1_0_0_2000 0.00514896
is_0_0_0_11 0 ns_1_0_2000_2000 0.00288429
is_0_0_0_12 0 ns_1_0_4000_2000 0.00844723
is_0_0_0_13 0 ns_1_0_6000_2000 0.00406084
is_0_0_0_14 0 ns_1_0_8000_2000 0.00963515
is_0_0_0_15 0 ns_1_0_0_3000 0.0151055
is_0_0_0_16 0 ns_1_0_2000_3000 0.0129517
is_0_0_0_17 0 ns_1_0_4000_3000 0.000874889
is_0_0_0_18 0 ns_1_0_6000_3000 0.00635364
is_0_0_0_19 0 ns_1_0_8000_3000 0.0119399
is_0_0_0_20 0 ns_1_0_0_4000 0.00972865
is_0_0_0_21 0 ns_1_0_2000_4000 0.0052607
is_0_0_0_22 0 ns_1_0_4000_4000 0.00315102
is_0_0_0_23 0 ns_1_0_6000_4000 0.000924166
is_0_0_0_24 0 ns_1_0_8000_4000 0.0142233
is_0_0_0_25 0 ns_1_0_0_5000 0.00214415
is_0_0_0_26 0 ns_1_0_2000_5000 0.00765261
is_0_0_0_27 0 ns_1_0_4000_5000 0.0132098
is_0_0_0_28 0 ns_1_0_6000_5000 0.0110628
is_0_0_0_29 0 ns_1_0_8000_5000 0.0143763
is_0_0_0_30 0 ns_1_0_0_6000 0.00452542
is_0_0_0_31 0 ns_1_0_2000_6000 0.00229943
is_0_0_0_32 0 ns_1_0_4000_6000 0.0133649
is_0_0_0_33 0 ns_1_0_6000_6000 0.00345979
is_0_0_0_34 0 ns_1_0_8000_6000 0.00124112
is_0_0_0_35 0 ns_1_0_0_7000 0.0145074
is_0_0_0_36 0 ns_1_0_2000_7000 0.00240595
is_0_0_0_37 0 ns_1_0_4000_7000 0.000240432
is_0_0_0_38 0 ns_1_0_6000_7000 0.0057223
is_0_0_0_39 0 ns_1_0_8000_7000 0.00356459
is_0_0_0_40 0 ns_1_0_0_8000 0.00691286
is_0_0_0_41 0 ns_1_0_2000_8000 0.00470904
is_0_0_0_42 0 ns_1_0_4000_8000 0.0102966
is_0_0_0_43 0 ns_1_0_6000_8000 0.000390905
is_0_0_0_44 0 ns_1_0_8000_8000 0.00367762
is_0_0_0_45 0 ns_1_0_0_9000 0.00923752
is_0_0_0_46 0 ns_1_0_2000_9000 0.0147558
is_0_0_0_47 0 ns_1_0_4000_9000 0.00264812
is_0_0_0_48 0 ns_1_0_6000_9000 0.00821295
is_0_0_0_49 0 ns_1_0_8000_9000 0.00602853

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val130'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val131'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val132'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val133'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val134'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val135'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val136'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val137'
rd_add0 nd0 0 'esr9'
rd_add1 nd1 0 'esr10'
rd_add2 nd2 0 'esr11'
rd_add3 nd3 0 'esr12'
rd_add4 nd4 0 'esr13'
rd_add5 nd5 0 'esr14'
rd_add6 nd6 0 'esr15'
rd_add7 nd7 0 'esr16'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xs_pad_0_4 ns_pad_port_0_4 ns_pad_0_4 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xs_pad_0_6 ns_pad_port_0_6 ns_pad_0_6 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xs_pad_1_5 ns_pad_port_1_5 ns_pad_1_5 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xs_pad_1_7 ns_pad_port_1_7 ns_pad_1_7 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xs_pad_2_4 ns_pad_port_2_4 ns_pad_2_4 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xs_pad_2_6 ns_pad_port_2_6 ns_pad_2_6 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xs_pad_3_5 ns_pad_port_3_5 ns_pad_3_5 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xs_pad_3_7 ns_pad_port_3_7 ns_pad_3_7 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_1000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rs_pad2via_0_4 ns_pad_0_4 ns_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rs_pad2via_0_6 ns_pad_0_6 ns_2_0_2000_8000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_4000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rs_pad2via_1_5 ns_pad_1_5 ns_2_0_4000_7000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rs_pad2via_1_7 ns_pad_1_7 ns_2_0_4000_9000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_1000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rs_pad2via_2_4 ns_pad_2_4 ns_2_0_6000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rs_pad2via_2_6 ns_pad_2_6 ns_2_0_6000_8000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_4000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rs_pad2via_3_5 ns_pad_3_5 ns_2_0_8000_7000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001
rs_pad2via_3_7 ns_pad_3_7 ns_2_0_8000_9000  0.001

.ends chiplet2
